US04085211
Preparation of 3,5-diamino-N-{[(aminocarbonyl)amino]aminomethylene}-6-chloro-2-pyrazinecarboxamide hydrobromide
3,5-Diamino-N-{[(tert-butylaminocarbonyl)amino]aminomethylene}-6-chloro-2-pyrazinecarboxamide hemihydrate (10.0 g., 0.03 mole) is heated with 48% hydrobromic acid at 90° C. for 1/2 hr. to precipitate a yellow product which is collected and washed with ice-water and ethanol affording 8.06 g. of 3,5-diamino-N-{[(aminocarbonyl)amino]aminomethylene}-6-chloro-2-pyrazinecarboxamide hydrobromide melting at 232°-235° C.

reactant | 3,5-Diamino-N-{[(tert-butylaminocarbonyl)amino]aminomethylene}-6-chloro-2-pyrazinecarboxamide hemihydrate | 0.03 mole, 10.0 g | O.NC=1C(=NC(=C(N1)N)Cl)C(=O)N=CNNC(=O)NC(C)(C)C.NC=1C(=NC(=C(N1)N)Cl)C(=O)N=CNNC(=O)NC(C)(C)C
reactant | hydrobromic acid | Br | BrH
product | 3,5-diamino-N-{[(aminocarbonyl)amino]aminomethylene}-6-chloro-2-pyrazinecarboxamide hydrobromide | Br.NC=1C(=NC(=C(N1)N)Cl)C(=O)N=CNNC(=O)N | InChI=1S/C7H9ClN8O2.BrH/c8-3-5(10)15-4(9)2(14-3)6(17)12-1-13-16-7(11)18;/h1H,(H4,9,10,15)(H3,11,16,18)(H,12,13,17);1H
